US06903227B2
To a stirred solution of 11.4 grams (61.7 mmol) of 6-aminochroman-2-carboxylic acid in 100 mL of THF was slowly added 6.64 g (122 mmol) of lithium aluminum hydride. The mixture was refluxed for 30 min, then quenched with ethyl acetate and 150 mL of 1 N HCl. Sufficient 12 N HCl was added to completely dissolve all of the inorganic precipitates. The aqueous phase was extracted twice with ethyl acetate, and the organic fractions combined, washed twice with brine, and concentrated in vacuo to an oil. This oil was distilled to afford 9.28 g of 6-amino-2-hydroxymethylchromane as a clear oil that crystallizes on cooling (87.6% yield).

reactant | 6-aminochroman-2-carboxylic acid | 61.7 mmol, 11.4 grams | NC=1C=C2CCC(OC2=CC1)C(=O)O | C10H11NO3
reactant | lithium aluminum hydride | 122 mmol, 6.64 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 6-amino-2-hydroxymethylchromane | 9.28 g, 87.6% yield | NC=1C=C2CCC(OC2=CC1)CO | C10H13NO2
